### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2026-01-23

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Data/Option/Basic.lean [hunk 1]
```diff
@@ -73,11 +73,6 @@ theorem Mem.leftUnique : Relator.LeftUnique ((· ∈ ·) : α → Option α →
 
 theorem some_injective (α : Type*) : Function.Injective (@some α) := fun _ _ ↦ some_inj.mp
 
-/-- `Option.map f` is injective if `f` is injective. -/
-theorem map_injective {f : α → β} (Hf : Function.Injective f) : Function.Injective (Option.map f)
```
Comment (jcommelin) [inline Mathlib/Data/Option/Basic.lean:77]: Why are we dropping this? Was it upstreamed?

File: .github/workflows/daily.yml [hunk 2]
```diff
@@ -22,12 +22,12 @@ permissions:
...
   check-leanchecker:
-    runs-on: lean4checker
-    if: github.repository == 'leanprover-community/mathlib4'
+    runs-on: ubuntu-latest  # lean4checker
+    if: github.repository == 'leanprover-community/mathlib4-nightly-testing'
     strategy:
       fail-fast: false
       matrix:
-        branch_type: [nightly] #[master, nightly]  # TODO: reactivate master when leanchecker has landed there (also below)
+        branch_type: [nightly] #[master, nightly]  # TODO: reactivate master when leanchecker has landed there
```
Comment (jcommelin) [inline .github/workflows/daily.yml:30]: Do we want these changes?

File: Mathlib/Data/Option/Basic.lean (hunk 1 above)
Comment (Rob23oba) [reply Mathlib/Data/Option/Basic.lean:77]: Yes, here:
https://github.com/leanprover/lean4/blob/37870c168bb1d513fcaaaf5782f819ad0bf83697/src/Init/Data/Option/Function.lean#L16-L17

File: Mathlib/Algebra/Group/ModEq.lean [hunk 3]
```diff
@@ -266,7 +266,7 @@ end ModEq
 @[simp]
 theorem zsmul_modEq_zsmul [IsAddTorsionFree G] (hn : z ≠ 0) :
     z • a ≡ z • b [PMOD z • p] ↔ a ≡ b [PMOD p] := by
-  simp [modEq_iff_zsmul, ← zsmul_sub, zsmul_comm, zsmul_right_inj hn]
+  simp [modEq_iff_zsmul, ← zsmul_sub, zsmul_comm _ z, zsmul_right_inj hn]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Group/ModEq.lean:269]: What's going on with these? Is it understood? There are several in this PR.

Comment (kim-em) [reply Mathlib/Algebra/Group/ModEq.lean:269]: Yes, these are necessary. Without the explicit argument (e.g. `zsmul_comm` instead of `zsmul_comm _ z`), simp either reports "unused simp argument" or "made no progress". I don't know what the underlying change to simp was here.

Comment (kim-em) [reply Mathlib/Algebra/Group/ModEq.lean:269]: The changes were introduced in https://github.com/leanprover-community/mathlib4-nightly-testing/commit/74bd3db30456f0844ea7a2e64ff465439058ffa2 by @Rob23oba.

Comment (Rob23oba) [reply Mathlib/Algebra/Group/ModEq.lean:269]: As you might know, `simp`s for commutations have a normalization behavior, i.e. there is always a preferred order. This preference is decided by `acLt` which is, among other things, affected by the internal name of free variables. leanprover/lean4#12000 changed the internal names of free variables which caused this preference to shift in some places. In those places where this caused problems, i.e. the preference shifted in a way that broke the proof, I adjusted the problematic simp arguments to make explicit which form should be rewritten, i.e. to make them not rely on the preference that is chosen by `acLt`.
In this case we have a goal state of `(∃ m, m • z • p = z • (b - a)) ↔ ∃ m, m • p = b - a` without the `zsmul_comm` and previously `z • m • p` was preferred over `m • z • p`. But now the preference is `m • z • p` so it doesn't rewrite and you need to tell it explicitly that it should rewrite when it sees `_ • z • _`.
Now, confusingly, this preference doesn't only depend on the order of variables in the context or their user names but actually it seems to also depend on whether `Elab.async` is on or not *and* whether `z` is declared in the theorem or as a variable... best option just seems to be to make it not depend on the choice in the first place.

File: .github/workflows/daily.yml (hunk 2 above)
Comment (kim-em) [reply .github/workflows/daily.yml:30]: These were temporary changes by Sebastian for testing the workflow on nightly-testing (commits 5bb493b80f0 and 7c43efe3ccf). Reverted in 073b1c781e4.

File: Mathlib/Algebra/Group/ModEq.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Algebra/Group/ModEq.lean:269]: I just retested all these changes on nightly-2026-01-23 and confirmed they are all necessary. Without the explicit arguments, simp fails with either "unused simp argument" (and leaves unsolved goals) or "simp made no progress".

**Comment by kim-em** [comment]
bors merge
